US06664111B2
Synthesis of 4-(4-{3-[diallyl(methyl)silyl]propyl}phenyl)-7-phenyl-1,10-phenanthroline
4-{3-[diallyl(methyl)silyl]propyl}phenylboronic acid is made by the method of Casado and Stobart (Casado, M. A.; Stobart, S. R., Org. Lett., 2 (11), 2000, 1549-1552). 4-{3-[diallyl(methyl)silyl]propyl}phenylboronic acid (0.576 g) and a solution of Pd(Ph3)4 (58 mg) in 5 mL of degassed toluene is placed in a 50 mL Schlenk tube. The mixture is purged with nitrogen, after which a solution of 4-bromo-7-phenyl-1,10-phenanthroline (0.670 g) and Na2CO3 (428 mg, 4 mmol) in 5 mL of degassed 4:1 H2O/CH3OH is added. The mixture is heated under nitrogen at 100° C. with rapid stirring until TLC monitoring shows the reaction to be complete (ca 24 hrs). The reaction mixture is then added to a separatory funnel and washed with ether (3×50 mL). The combined organic fractions are dried over MgSO4 and concentrated by roto-evaporation. The desired product is purified by column chromatography on silica gel using a mixture of ethyl acetate and hexane.

reactant | 4-{3-[diallyl(methyl)silyl]propyl}phenylboronic acid | C(C=C)[Si](CCCC1=CC=C(C=C1)B(O)O)(C)CC=C | C16H25BO2Si
reactant | 4-{3-[diallyl(methyl)silyl]propyl}phenylboronic acid | 0.576 g | C(C=C)[Si](CCCC1=CC=C(C=C1)B(O)O)(C)CC=C | C16H25BO2Si
reactant | 4-bromo-7-phenyl-1,10-phenanthroline | 0.670 g | BrC1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1 | C18H11BrN2
reactant | Na2CO3 | 4 mmol, 428 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O CH3OH | O.CO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-{3-[diallyl(methyl)silyl]propyl}phenyl)-7-phenyl-1,10-phenanthroline | C(C=C)[Si](CCCC1=CC=C(C=C1)C1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1)(C)CC=C | C34H34N2Si
